US07642264B2
2-Chloro-4-(3-methyl-4-trifluoromethyl-phenyl)-6-methyl-pyrimidine
The title compound was prepared from 4-(3-methyl-4-trifluoromethyl-phenyl)-6-methyl-1H-pyrimidin-2-one (1.73 g, 6.45 mmol) and phosphoroxychloride (20 mL) according to the general procedure I. Obtained as a brown solid (1.4 g, 76%). MS (EI) 286.1 [(M)+]; mp 101° C.

reactant | 4-(3-methyl-4-trifluoromethyl-phenyl)-6-methyl-1H-pyrimidin-2-one | 6.45 mmol, 1.73 g | CC=1C=C(C=CC1C(F)(F)F)C1=NC(NC(=C1)C)=O | C13H11F3N2O
reactant | phosphoroxychloride | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(3-methyl-4-trifluoromethyl-phenyl)-6-methyl-pyrimidine | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)C)C | C13H10ClF3N2
